US05434188
To a room temperature solution of 7-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxylic acid (141 mg, 0.54 mmol) in 10 mL of THF is added N,N-carbonyldiimidazole (105 mg, 0.65 mmol). The solution is heated at reflux for 1 hour and cooled slightly. Aqueous NH4OH (2.5 mL) is added and the reaction mixture is stirred at room temperature for 40 minutes then partitioned between 1:1 hexane:ethyl acetate and brine. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo. The crude product is recrystallized from hexane and ethyl acetate to provide 7-methoxy-1-(1 methylethoxy)-2-naphthalenecarboxamide in 68% yield; mp 172°-174° C.

reactant | 7-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxylic acid | 0.54 mmol, 141 mg | COC1=CC=C2C=CC(=C(C2=C1)OC(C)C)C(=O)O | C15H16O4
reactant | N,N-carbonyldiimidazole | 0.65 mmol, 105 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NH4OH | 2.5 mL | [NH4+].[OH-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-methoxy-1-(1 methylethoxy)-2-naphthalenecarboxamide | 68% yield | COC1=CC=C2C=CC(=C(C2=C1)OC(C)C)C(=O)N | C15H17NO3
